US06177440B1
A solution of the {9-[(2-trifluoromethylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester (70 mg, 0.153 mM) and 0.21 mL (0.21 mM) of 1 N NaOH in 5 mL of methanol was sonicated for 23 hours at 50-60° C. The methanol was removed in vacuo and the mixture acidified to pH 1.6 with 1 N HCl. The resultant white precipitate was collected by filtration, washed with H2O, small amounts of MeOH and diethyl ether, then dried in vacuo to afford 59 mg (88%) of the {9-[(2-trifluoromethylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid as a white powder. 1H NMR (DMSO-d6) δ 13.0 (br s, 1H), 7.8 (d, 1H, J=8 Hz), 7.75 (s, 1H), 7.5-7.3 (m, 6H), 7.1 (d, 1H, J=8 Hz), 7.05 (d, 1H, J=8 Hz), 6.6 (d, 1H, J=8 Hz), 6.3 (d, 1H, J=8 Hz), 5.8 (s, 2H), and 4.8 (s, 2H). IR (KBr, cm−1) 1737 and 1635. MS (ES) m/e 441, 443.

reactant | {9-[(2-trifluoromethylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 0.153 mM, 70 mg | FC(C1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O)(F)F | C24H19F3N2O4
reactant | NaOH | 0.21 mM, 0.21 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | {9-[(2-trifluoromethylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid | 59 mg, 88% | FC(C1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)O)C(N)=O)(F)F | C23H17F3N2O4
